US07446222B2
Ethyl 3-bromo-5-[(4-chlorobutanoyl)amino]benzoate
4-Chlorobutyryl chloride (636 mg, 505 μl, 4.5 mmol) was added to a solution of ethyl 3-amino-5-bromobenzoate (1.0 g, 4.1 mmol) and triethylamine (455 mg, 630 ul, 4.5 mmol) in dichloromethane (25 ml) at 0° C. After complete addition the reaction mixture was stirred at room temperature for 30 minutes, then diluted with ethyl acetate (50 ml). The solution was washed with 2M HCl, saturated NaHCO3, water and brine. The organic phase was dried and evaporated to give the title compound as a pale yellow solid (1.35 g, 94%)

reactant | 4-Chlorobutyryl chloride | 4.5 mmol, 505 μl, 636 mg | ClCCCC(=O)Cl | C4H6Cl2O
reactant | ethyl 3-amino-5-bromobenzoate | 4.1 mmol, 1.0 g | NC=1C=C(C(=O)OCC)C=C(C1)Br | C9H10BrNO2
reactant | triethylamine | 4.5 mmol, 630 ul, 455 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-bromo-5-[(4-chlorobutanoyl)amino]benzoate | 1.35 g, 94% | BrC=1C=C(C(=O)OCC)C=C(C1)NC(CCCCl)=O | C13H15BrClNO3
